Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HOSPITALIST INITIAL NOTE

PCP:
Name: ___. MD 
Location: INTERNAL MEDICINE ASSOCIATES - ___ 
Address: ___ FLOOR, ___ 
Phone: ___ 
Fax: ___ 

HPI:
Mr. ___ is a lovely ___ yo M with BPH who presents with 2 days of 
high fever to 103 with chills and sweating.  Leading up to this 
he was in his usual state of health.  His symptoms began rather 
suddenly.  He reports mild sore throat but otherwise denies HA, 
vision change, sinus congestion, cough, CP, SOB, n/v/d, pain or 
burning with urination, leg pain/swelling, rash.  He has not had 
recent procedures.  He states that a long time ago in ___ he 
had a bacterial infection in the lung that was "Atypical" and 
was told it came from the water.  At this time he denies any 
pain.

ED course reviewed.

10 point review of systems reviewed otherwise negative except as 
listed above
 
Past Medical History:
BPH
Colonic polyps
 
Social History:
___
Family History:
Father and mother both died of cancer: colon (F), bladder (M)
 
Physical Exam:
ADMISSION EXAM:
================
VS: 97.9 PO 124 / 77 103   98 Ra 
GEN: sitting in bed in NAD
HEENT: NC/AT, MMM, OP clear, anicteric sclera
NECK: supple no LAD full ROM
CV: tachy no mrg
PULM: CTAB no wheezes or crackles
GI: soft NT/ND +BS no rebound or guarding
GU: no CVA tenderness.  Prostate enlarged and firm not boggy, 
and not tender to palpation
EXT: warm well perfused no pitting edema
SKIN: no rashes or bruising noted
NEURO: no focal deficits. awake and alert with fluent speech
PSYCH: pleasant with good eye contact
.
.
DISCHARGE EXAM:
================
VS: 24 HR Data (last updated ___ @ 1532)
Temp: 97.7 (Tm 98.0), BP: 128/86 (117-128/75-86), HR: 86 
(86-98), RR: 18 (___), O2 sat: 96% (94-98), O2 delivery: RA  
Gen: NAD, well-appearing
HEENT: EOMI, anicteric, OP clear w/o erythema or tonsillar 
exudates, nares patent, no drainage from ears or nose
Neck: no LAD appreciated on palpation, no JVD or elevated JVP
Cards: RR, no m/r/g, 2+ DP and radial pulses, good capillary 
refill in b/l hands and feet, no peripheral edema
Chest: CTAB, normal WOB, normal percussion
Abd: S, ND, no tenderness to deep palpation of the epigastrium 
today; no tenderness to palpation in any quadrant; BS+; no 
rebound or guarding
Ext: WWP, no cyanosis or clubbing, no stigmata of endocarditis 
in b/l fingers/toes; no swelling or erythema or tenderness to 
palpation of any joints of upper or lower extremities
Neuro: AAOx4, clear speech, no facial droop, conversant, normal 
attention, no resting tremor, normal coordination
Psych: calm, cooperative
 
Pertinent Results:
ADMISSION LABS:
=================
___ 08:44PM BLOOD WBC-10.5* RBC-4.35* Hgb-14.1 Hct-40.2 
MCV-92 MCH-32.4* MCHC-35.1 RDW-13.1 RDWSD-44.9 Plt ___
___ 08:44PM BLOOD Neuts-94* Bands-1 Lymphs-3* Monos-1* 
Eos-0 Baso-1 ___ Myelos-0 AbsNeut-9.98* 
AbsLymp-0.32* AbsMono-0.11* AbsEos-0.00* AbsBaso-0.11*
___ 08:44PM BLOOD Glucose-155* UreaN-22* Creat-1.0 Na-139 
K-4.0 Cl-102 HCO3-20* AnGap-17
___ 08:44PM BLOOD ALT-18 AST-21 AlkPhos-58 TotBili-0.8
___ 08:44PM BLOOD Lipase-11
___ 08:44PM BLOOD cTropnT-<0.01
___ 08:44PM BLOOD Albumin-3.9
___ 10:56PM BLOOD Lactate-1.4
.
.
.
.
MICRO:
======
-___ BCx: Klebsiella pneumoniae (pan-sensitive)

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

-___ UCx: mixed bacterial flora (final)
-___ BCx: Klebsiella pneumoniae (pan-sensitive)
-___ BCx: Klebsiella pneumoniae (pan-sensitive)
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
.
.
.
.
IMAGING:
==========

___ CXR: 
FINDINGS: The lungs are well inflated.  No focal consolidations. 
 No pulmonary edema.  Normal cardiomediastinal silhouette.  No 
pleural effusion.  No pneumothorax. 
IMPRESSION:  No evidence of pneumonia. 

___ CT abd/pelvis:
FINDINGS:

LOWER CHEST: There is evidence of mild interstitial pulmonary 
edema in the 
visualized lower lungs.  There is trace bilateral pleural 
effusion and 
subsegmental atelectasis. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas is normal in morphology and attenuation.  
There is no 
focal pancreatic lesion or pancreatic duct dilatation.  Minimal 
stranding is 
noted adjacent to the head of the pancreas. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is an 11 mm cyst arising from the lateral interpolar left 
kidney.  
Additional subcentimeter cortical hypodensities bilaterally are 
too small to 
characterize.  There is no hydronephrosis.  There is no evidence 
of a renal or 
perirenal abscess.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  There is mild 
thickening and 
adjacent stranding involving the first and second portion of the 
duodenum.  
There is no extraluminal air or fluid collection to suggest 
perforation.  
Remainder of the small bowel loops are normal in caliber, wall 
thickness and 
enhancement.  The colon and rectum are within normal limits.  
The appendix is 
normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate is mildly enlarged.  There is 
no evidence of 
a prostate abscess. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: Mild fat stranding is noted within the left 
posterior gluteal 
fold.  No fluid collection seen in this region. 

IMPRESSION: 
  1. Moderate inflammation of the proximal duodenum and adjacent 
fat stranding may be secondary to duodenitis.  Less likely, 
these changes can be seen with groove pancreatitis.  Correlation 
with serum lipase is recommended. 
  2. Fat stranding noted within the left posterior gluteal 
cleft. Clinical correlation is recommended. 
.
.
.
.
DISCHARGE LABS
===============
___ 08:03AM BLOOD WBC-6.4 RBC-4.06* Hgb-13.1* Hct-36.8* 
MCV-91 MCH-32.3* MCHC-35.6 RDW-13.4 RDWSD-44.2 Plt ___
___ 08:03AM BLOOD Glucose-122* UreaN-11 Creat-0.6 Na-138 
K-3.4 Cl-101 HCO3-24 AnGap-13
___ 08:03AM BLOOD Albumin-3.0* Calcium-8.1* Phos-2.4* 
Mg-2.1
 
Brief Hospital Course:
# Klebsiella bacteremia
- presented w/ fevers, chills, and severe weakness/fatigue with 
no localizing signs/symptoms
- was started on empiric cefepime in ED when BCx turned positive
- last fever was prior to arrival on the medical floor
- CT abd/pelvis done to evaluate for occult source of infection 
revealed only duodenitis as potential source of infection
- last positive BCx was on ___
- BCx grew pan-sensitive Klebsiella pneumoniae
- transitioned to oral Ciprofloxacin 500 mg BID on ___
- will need to complete 14 days of abx from first negative 
culture day, so from ___ - ___
- QTc checked prior to starting Cipro and was 427 msec
.
.
# Duodenitis
- most likely source of his bacteremia
- though he initially denied any GI symptoms, he had vomiting 
during attempt to consume PO contrast in preparation for CT 
abd/pelvis, and after the CT scan he started to complain of some 
mild epigastric & mid abdominal discomfort, anorexia, and 
PO-induced nausea/vomiting
- his symptoms gradually improved w/ conservative measures and 
empiric abx for his bacteremia
- on day of discharge, he was tolerating PO with only mild 
nausea, no significant pain or vomiting, no abdominal tenderness 
to palpation on exam, and reported feeling much better
.
.
# ___: mild, now resolved.
Cr 1 on admission, down to 0.6 w/ IVF resuscitation and empiric 
abx, stable renal function labs after that.
.
.
# BPH: 
Continued home finasteride, resumed home doxazosin once patient 
was clinically improved. Discharged on his usual home regimen.
.
.
# Microscopic hematuria: 
[] Please repeat UA as outpatient once patient's acute illness 
has resolved ---> If persistent on repeat UA, will need 
outpatient Urology f/u.
.
.
.
.
Time in care: 
[x] Greater than 30 minutes in discharge-related activities 
today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 1 mg PO HS 
2. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
Last dose on ___. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*25 Tablet Refills:*0 
2.  Doxazosin 1 mg PO HS  
3.  Finasteride 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Klebsiella bacteremia
# Duodenitis
# Microscopic hematuria
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with fevers and chills and 
were found to have bacteria growing in your blood. You were 
started on antibiotics and underwent a CT scan of the abdomen 
which revealed inflammation of the duodenum ("duodenitis") which 
was thought to be the most likely source of your infection.  The 
bacteria in your blood was identified as Klebsiella pneumonia.  
Once you were feeling better, had been without fevers or chills 
for more than 24 hours, and were able to eat and drink food 
without vomiting, you were transitioned to an oral antibiotic 
(Ciprofloxacin) that you will need to take until ___.

Please seek immediate medical attention, preferably at the ___ 
Emergency Department, if you develop recurrent fevers, shaking 
chills or persistent vomiting in the next 3 weeks.

It was a pleasure caring for you while you were hospitalized, 
and we wish you a full and speedy recovery.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___